US07592477B2
Step a) Formation of (3,5-dichlorobenzyl)(4-nitrobenzyl)amine hydrochloride
The same procedure as employed in the preparation of Example 226 (step a) but using 3,5-dichlorobenzylamine and 4-nitrobenzaldehyde gave the title compound as a yellow powder (71%). 1H NMR (CD3OD, 300 MHz) δ 8.37 (d, 2H, J=8.8 Hz), 7.83 (d, 2H, J=8.8 Hz), 7.61 (br s, 3H), 4.48 (s, 2H), 4.38 (s, 2H). M−(LC/MS(ESI)): 309; M+(LC/MS(ESI)): 311 HPLC (Condition A), Rt: 2.78 min (HPLC purity: 93.0%).

reactant | 3,5-dichlorobenzylamine | ClC=1C=C(CN)C=C(C1)Cl | C7H7Cl2N
reactant | 4-nitrobenzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
product | (3,5-dichlorobenzyl)(4-nitrobenzyl)amine hydrochloride | 71% | Cl.ClC=1C=C(CNCC2=CC=C(C=C2)[N+](=O)[O-])C=C(C1)Cl | InChI=1S/C14H12Cl2N2O2.ClH/c15-12-5-11(6-13(16)7-12)9-17-8-10-1-3-14(4-2-10)18(19)20;/h1-7,17H,8-9H2;1H
